US06255327B1
c) 5-{2-[2(N,N-dimethylamino)ethyl]oxy-phenyl}-3-phenyl-imidazolidine-2,4-dione
1.4 ml of phenyl isocyanate are slowly added to a solution of 4 g of 2-amino-2-{[2(N,N-dimethylamino)ethyl]oxy-phenyl}-acetic acid and 1.65 g of potassium hydroxide in water (about 20 ml). The mixture is stirred for 12 hours at ambient temperature, filtered, acidified with aqueous HCl solution (10%) (about pH 2) and refluxed. After 6 hours it is slowly cooled and made alkaline with aqueous Na2CO3 solution (10%). The precipitate obtained is recrystallised from ethyl acetate. 3 g of the title compound are obtained in the form of a white solid (melting point: 120-124° C.).

reactant | phenyl isocyanate | 1.4 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-amino-2-{[2(N,N-dimethylamino)ethyl]oxy-phenyl}-acetic acid | 4 g | NC(C(=O)O)C1=C(C=CC=C1)OCCN(C)C | C12H18N2O3
reactant | potassium hydroxide | 1.65 g | [OH-].[K+]
solvent | water | about 20 ml | O | H2O
product | 5-{2-[2(N,N-dimethylamino)ethyl]oxy-phenyl}-3-phenyl-imidazolidine-2,4-dione | 3 g | CN(C)CCOC1=C(C=CC=C1)C1C(N(C(N1)=O)C1=CC=CC=C1)=O | C19H21N3O3
